US04908363
3.5 g of 1-amino-4-methylimidazole hydrochloride are dissolved in 200 ml of ethanol. 6.2 g of 4-hydroxy-3,5-di-tert.-butylbenzaldehyde are added and the mixture is stirred at room temperature overnight. The solution obtained is then evaporated in a vacuum. The residue is treated with 150 ml of methylene chloride and 150 ml of water, stirred and saturated sodium bicarbonate solution is added up to a neutral reaction (pH=7). The methylene chloride phase is separated and the aqueous phase is extracted with 50 ml of methylene chloride. The methylene chloride phases are combined, washed once with 10% sodium chloride solution, dried and evaporated. The residue is triturated with cold ether. The solid is removed by filtration, washed with ether and n-hexane and dried at 70° in a vacuum. There is obtained 1-(4-hydroxy-3,5-di-tert.-butylbenzylideneamino)-4-methylimidazole of m.p. 150°-151°.

reactant | 1-amino-4-methylimidazole hydrochloride | 3.5 g | Cl.NN1C=NC(=C1)C
reactant | 4-hydroxy-3,5-di-tert.-butylbenzaldehyde | 6.2 g | OC1=C(C=C(C=O)C=C1C(C)(C)C)C(C)(C)C | C15H22O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-(4-hydroxy-3,5-di-tert.-butylbenzylideneamino)-4-methylimidazole | OC1=C(C=C(C=NN2C=NC(=C2)C)C=C1C(C)(C)C)C(C)(C)C | C19H27N3O
